US04281188
3.7 g of 1-(2-chloroethyl)-3-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea dissolved in 100 ml of acetonitrile are treated with 1.83 g of potassium acetate and 4.21 g of 18-crown-6. The mixture is then stirred at room temperature for 5 days, concentrated, treated with water/methylene chloride and the aqueous solution is extracted several times with methylene chloride. The organic solution is dried with sodium sulphate, filtered and concentrated. The residue is purified on a 350 g silica gel column using ethyl acetate as the eluting agent and crystallised from ethanol/ether. There is obtained 2-[3-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ureido]ethyl acetate.

reactant | 1-(2-chloroethyl)-3-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea | 3.7 g | ClCCNC(=O)NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl | C19H17Cl2FN4O2
reactant | potassium acetate | 1.83 g | C(C)(=O)[O-].[K+]
reactant | 18-crown-6 | 4.21 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-[3-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ureido]ethyl acetate | C(C)(=O)OCCNC(=O)NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl | C21H20ClFN4O4
